### ISSUE TITLE
Missing proof states

### ISSUE THREAD

**Issue by david-christiansen** [leanprover/verso-slides#46]
Using this code:
```
/-- A prime is a number larger than 1 with no trivial divisors -/
def IsPrime (n : Nat) := 1 < n ∧ ∀ k, 1 < k → k < n → ¬ k ∣ n

/-- Every number larger than 1 has a prime factor -/
theorem exists_prime_factor :
    ∀ n, 1 < n → ∃ k, IsPrime k ∧ k ∣ n := by
  intro n h1
  -- Either `n` is prime...
  by_cases hprime : IsPrime n
  · grind [Nat.dvd_refl]
  -- ... or it has a non-trivial divisor with a prime factor
  · obtain ⟨k, _⟩ : ∃ k, 1 < k ∧ k < n ∧ k ∣ n := by
      simp_all [IsPrime]
    obtain ⟨p, _, _⟩ := exists_prime_factor k (by grind)
    grind [Nat.dvd_trans]
```
there is no way to see the proof state after `obtain` in the second bullet.

Reported [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/576452-verso/topic/.60verso-slides.60/near/599914516)
